US06835513B2
N-2-ethylhexyl-3,6-diformyl carbazole was prepared from DMF (97 ml, 1.25 mol), POCl3 (116.5 ml, 1.25 mol), and N-2-ethylhexylcarbazole (50 g, 0.18 mol) according to the procedure described for N-Heptyl-3,6-Diformylcarbazole. The product was obtained as 40 g of brownish liquid (66% yield). The product was used as is in the next step without any purification.

reactant | DMF | 1.25 mol, 97 ml | CN(C)C=O | C3H7NO
reactant | POCl3 | 1.25 mol, 116.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-2-ethylhexylcarbazole | 0.18 mol, 50 g | CCN1C2=CC=CC=C2C=2C=CC=C(C12)CCCCCC | C20H25N
reactant | N-Heptyl-3,6-Diformylcarbazole | C(CCCCCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C21H23NO2
product | N-2-ethylhexyl-3,6-diformyl carbazole | CCN1C2=CC=C(C=C2C=2C=C(C=C(C12)CCCCCC)C=O)C=O | C22H25NO2
